US07652143B2
Ethyl 2-(2-(4-benzyloxyphenylamino)ethylamino)-3-methylbutyrate (100 mg; 0.27 mmol) was dissolved in toluene (5 ml) and cooled to 0° C. DIEA (141 μl; 0.81 mmol) and phosgene (20% strength in toluene; 202 μl; 0.40 mmol) were added thereto. The mixture was allowed to reach RT over the course of 3 h, and then the solvent was removed under reduced pressure. The residue was partitioned between water (10 ml) and EtOAc (10 ml). The phases were separated and the aqueous phase was extracted with EtOAc (2×; 5 ml). The combined organic phases were dried over MgSO4. After removal of the solvent whilst under reduced pressure, ethyl 2-(3-(4-benzyloxyphenyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate (90 mg; 0.22 mmol) was obtained. MS: 397.15 (M+H); Rt: 1.90 min (method: gradient 0 min 90% H2O (0.05% TFA) 1.9 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 10% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | Ethyl 2-(2-(4-benzyloxyphenylamino)ethylamino)-3-methylbutyrate | 0.27 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NCCNC(C(=O)OCC)C(C)C | C22H30N2O3
reactant | DIEA | 0.81 mmol, 141 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | phosgene | 0.40 mmol, 202 μl | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(3-(4-benzyloxyphenyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate | 0.22 mmol, 90 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(CC1)C(C(=O)OCC)C(C)C)=O | C23H28N2O4
